US08252831B2
2-(Difluoromethyl)-5-[(2-methylpropanoylamino)methyl]benzoic acid
To a mixture of methyl 5-(aminomethyl)-2-(difluoromethyl)benzoate hydrochloride (1.30 g, 5.17 mmol, 1.0 equiv) and triethylamine (1.51 mL, 10.85 mmol, 2.1 equiv) in dichloromethane (50 mL) at room temperature, add isobutyryl chloride (0.571 mL, 5.42 mmol, 1.05 equiv) and stir for one hour. Dilute the mixture with dichloromethane and wash with water then saturated aqueous NaCl. Separate the organic layer and dry over sodium sulfate, filter, and concentrate under reduced pressure. Dissolve the resulting crude material in 1,4-dioxane (10 mL), and add sodium hydroxide (5 N aqueous, 2 mL, 10 mmol, 1.93 equiv). Stir the resulting suspension at 40° C. overnight. Concentrate the mixture under reduced pressure, and treat the resulting residue with 1 N aqueous hydrochloric acid until the pH reaches 3. Extract the resulting suspension with EtOAc (2×30 mL). Wash the combined organic layers with saturated aqueous NaCl (50 mL), dry over sodium sulfate, filter, and concentrate under reduced pressure to give the title compound as a white solid (1.32 g, 94%). MS (m/z) 272 (M+1).

reactant | methyl 5-(aminomethyl)-2-(difluoromethyl)benzoate hydrochloride | 5.17 mmol, 1.30 g, 1.0 equiv | Cl.NCC=1C=CC(=C(C(=O)OC)C1)C(F)F
reactant | triethylamine | 10.85 mmol, 1.51 mL, 2.1 equiv | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 5.42 mmol, 0.571 mL, 1.05 equiv | C(C(C)C)(=O)Cl | C4H7ClO
reactant | sodium hydroxide | 10 mmol, 5 N, 2 mL, 1.93 equiv | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-(Difluoromethyl)-5-[(2-methylpropanoylamino)methyl]benzoic acid | 1.32 g, 94% | FC(C1=C(C(=O)O)C=C(C=C1)CNC(C(C)C)=O)F | C13H15F2NO3
